US05144034
To a stirred solution of nitroacetic acid ethyl ester (5.0 g, 37.6 mmol) and 2-(trimethylsily)ethanol (7.27 g, 61 mmol) in dry benzene (100 mL) is added titanium tetraisopropoxide (1.05 q, 3.69 mmol) and the mixture is heated at reflux for 1 hour. The solution is cooled to 40° C. and water (2 mL) is added and stirring is continued for 10 minutes at room temperature. The solvents are evaporated and the residue is taken up in dichloromethane and dried over anhydrous magnesium sulfate. The mixture is filtered through a small pad of Celite and the solvent is evaporated. The residue is purified by distillation to give nitroacetic acid, 2-(trimethylsily)ethyl ester (6.10 g, 79%) as a colorless liquid. B.pt. 90°-95° C./0.3 mmHg.

reactant | nitroacetic acid ethyl ester | 37.6 mmol, 5.0 g | C(C)OC(C[N+](=O)[O-])=O | C4H7NO4
reactant | 2-(trimethylsily)ethanol | 61 mmol, 7.27 g | C[Si](CCO)(C)C | C5H14OSi
reactant | water | 2 mL | O | H2O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
catalyst | titanium tetraisopropoxide | 3.69 mmol | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | nitroacetic acid, 2-(trimethylsily)ethyl ester | 6.10 g, 79% | [N+](=O)([O-])CC(=O)OCC[Si](C)(C)C | C7H15NO4Si
